US08372307B2
A solution of DCC (11.3 g, 54.5 mmol) in DCM is added slowly to an ice cooled mixture of 4′-pentyl-bicyclohexyl-4-carboxylic acid (15.0 g, 53.5 mmol), dimethylaminopyridine (1.1 g) and 3-bromopropan-1-ol (7.5 g, 54.0 mmol) and DCM (100 ml). After addition is complete, the mixture is stirred at 25° C. overnight. Oxalic acid is added to mop up excess DCC, the mixture is filtered and then evaporated to dryness to afford 4′-pentyl-bicyclohexyl-4-carboxylic acid 3-bromo-propyl ester as a white solid which gave correct mass ion by GCMS (M+401). 1H NMR gave expected signals. The product is used without further purification in the preparation of preferred example 2.

reactant | DCC | 54.5 mmol, 11.3 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | 4′-pentyl-bicyclohexyl-4-carboxylic acid | 53.5 mmol, 15.0 g | C(CCCC)C1CCC(CC1)C1CCC(CC1)C(=O)O | C18H32O2
reactant | dimethylaminopyridine | 1.1 g | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | 3-bromopropan-1-ol | 54.0 mmol, 7.5 g | BrCCCO | C3H7BrO
reactant | Oxalic acid | C(C(=O)O)(=O)O | C2H2O4
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | DCM | 100 ml | C(Cl)Cl | CH2Cl2
product | 4′-pentyl-bicyclohexyl-4-carboxylic acid 3-bromo-propyl ester | BrCCCOC(=O)C1CCC(CC1)C1CCC(CC1)CCCCC | C21H37BrO2
